US03959477
In a 500 ml flask equipped with a 40 cm Vigreux column, there are put 40 g (0.184 mole) of methyl 2-methoxy-4-hydroxy-5-chlorobenzoate, 160 ml of xylene and 35.5 g of dextro 1-ethyl-2- aminomethylpyrrolidine. It is heated gently. There is complete dissolution when heating begins. The methyl alcohol formed as a methanol - xylene azeotrope is distilled at 61°-63° C. At the end of the reaction, a little xylene is distilled. In 90 minutes, 40 ml containing 7 ml of methyl alcohol are distilled. The excess xylene and amine are then distilled under vacuum. The residue is a solid. It is recovered with 300 ml of water, drained, washed until neutral as indicated by the phenol-phthalein and dried at 60° C. There are obtained 58 g (yield 100%) of N-(1-ethyl-2-pyrrolidylmethyl)-4-hydroxy-5-chlorobenzamide in base state which are transformed to the hydrochloride. This is done by dissolving the base in 200 ml of absolute alcohol and adding an alcohol solution of 14.5 ml of concentrated hydrochloric acid in 40 ml of alcohol. The hydrochloride crystallizes, is drained, washed with alcohol, and air-dried. It is a white solid (m.p. 228° C; [α]D = + 8° (5% water).

reactant | methyl 2-methoxy-4-hydroxy-5-chlorobenzoate | 0.184 mole, 40 g | COC1=C(C(=O)OC)C=C(C(=C1)O)Cl | C9H9ClO4
reactant | xylene | 160 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 1-ethyl-2- aminomethylpyrrolidine | 35.5 g | C(C)N1C(CCC1)CN | C7H16N2
solvent | methyl alcohol | CO | CH4O
product | methanol - xylene | C1(C2C(=CC=C1)C2)(C)C | C9H12
